US04710491
N-Octadecyl-(2-amino-2-deoxy-D-glucopyranosyl)-amine hydrochloride
6.45 g of D-glucosamine hydrochloride were dissolved in 30 ml of isopropanol and 10 ml of water at 60° C., and 12.1 g of stearylamine were added. The resulting clear solution was subsequently stirred for a further 10 minutes and then cooled to room temperature. The product which crystallized out was filtered off with suction and washed first with ethanol/water (5:2, v/v), then with ethanol and finally with ether. The residue was dried under a high vacuum.

reactant | D-glucosamine hydrochloride | 6.45 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | water | 10 ml | O | H2O
reactant | stearylamine | 12.1 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | N-Octadecyl-(2-amino-2-deoxy-D-glucopyranosyl)-amine hydrochloride | Cl.C(CCCCCCCCCCCCCCCCC)NC1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)N | InChI=1S/C24H50N2O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-26-24-21(25)23(29)22(28)20(19-27)30-24;/h20-24,26-29H,2-19,25H2,1H3;1H/t20-,21-,22-,23-,24?;/m1./s1
